US05489570
A mixture of 5-(3-cyclopropyl-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene (0.5 g) and triethyl orthoformate (0.73 g) was heated under reflux with acetic anhydride (10 ml) for 3 hours. After cooling and addition of toluene the solution was evaporated to dryness to yield 5-(3-cyclopropyl-2-ethoxymethylene-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene as a red oil.

reactant | 5-(3-cyclopropyl-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene | 0.5 g | C1(CC1)C(CC(=O)C1=C(C2=C(SC=C2OC)C=C1)OC)=O | C16H16O4S
reactant | triethyl orthoformate | 0.73 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-cyclopropyl-2-ethoxymethylene-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene | C1(CC1)C(C(C(=O)C1=C(C2=C(SC=C2OC)C=C1)OC)=COCC)=O | C19H20O5S
